US04192890
A mixture of 29.9 g of 3-p-chlorobenzoyl-2-methyl-benzoic acid and 300 cc of thionyl chloride was refluxed for 3 hours and then stirred at room temperature overnight. Excess thionyl chloride was removed under reduced pressure and the last traces were eliminated by adding benzene and distilling the benzene off under reduced pressure to obtain 3-p-chlorobenzoyl-2-methyl-benzoyl chloride.

reactant | 3-p-chlorobenzoyl-2-methyl-benzoic acid | 29.9 g | ClC1=CC=C(C(=O)C=2C(=C(C(=O)O)C=CC2)C)C=C1 | C15H11ClO3
reactant | thionyl chloride | 300 cc | S(=O)(Cl)Cl | Cl2OS
product | 3-p-chlorobenzoyl-2-methyl-benzoyl chloride | ClC1=CC=C(C(=O)C=2C(=C(C(=O)Cl)C=CC2)C)C=C1 | C15H10Cl2O2
